US06350761B1
To 4-hydroxy-3-nitrobenzenamine (10.0 g) in methylene chloride (60 mL) was added triethylamine (27 mL) and trifluoroacetic anhydride (10.9 mL) at 0° C. The reaction was stirred at 0° C. for three hours. The reaction was diluted with water, acidified and extracted with ethyl acetate. The organic layer was dried, concentrated and purified on silica gel column (ethyl acetate/hexane, 1:1) to afford 4-hydroxy-3-nitro-N-(trifluoromethylcarbonyl)benzenamine (10.0 g).

reactant | 4-hydroxy-3-nitrobenzenamine | 10.0 g | OC1=C(C=C(C=C1)N)[N+](=O)[O-] | C6H6N2O3
reactant | triethylamine | 27 mL | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 10.9 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | methylene chloride | 60 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 4-hydroxy-3-nitro-N-(trifluoromethylcarbonyl)benzenamine | 10.0 g | OC1=C(C=C(C=C1)NC(=O)C(F)(F)F)[N+](=O)[O-] | C8H5F3N2O4
